US06204260B1
4-methyl-(L)-leucine tert-butyl ester
To a pressure bottle were added 1.5 gm (10.3 mMol) 4-methyl-(L)-leucine, 25 mL dioxane, 1.5 mL concentrated sulfuric acid and 25 mL isobutylene. The pressure bottle was stoppered and the reactants were shaken together for 18 hours. The reaction mixture was then treated with 60 mL cold 1N sodium hydroxide and 100 mL ethyl acetate. To this mixture was added sufficient 1N sodium hydroxide until the pH of the mixture was 8.5. The layers were separated and the aqueous phase was extracted well with ethyl acetate. The combined ethyl acetate phases were dried over sodium sulfate and concentrated under reduced pressure to provide an oil which gradually crystallized to provide 1.05 gm (50.5%) of the title compound.

reactant | 4-methyl-(L)-leucine | 10.3 mMol, 1.5 gm | CC(C[C@H](N)C(=O)O)(C)C | C7H15NO2
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 25 mL | CC(C)=C | C4H8
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-(L)-leucine tert-butyl ester | 1.05 gm, 50.5% | C(C)(C)(C)OC([C@@H](N)CC(C)(C)C)=O | C11H23NO2
